US04423213
Benzhydryl 7-[2-(1-tert-butoxycarbonylethoxyimino)-2-(2-amino-5-chlorothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (1.69 g) was prepared by reacting benzhydryl 7-[2-(1-tert-butoxycarbonylethoxyimino)-2-(2-formamido-5-chlorothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (1.9 g) with conc. hydrochloric acid (0.8 g) according to a similar manner to that of Example 310.

reactant | benzhydryl 7-[2-(1-tert-butoxycarbonylethoxyimino)-2-(2-formamido-5-chlorothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 1.9 g | C(C)(C)(C)OC(=O)C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1Cl)NC=O | C35H34ClN5O8S2
reactant | hydrochloric acid | 0.8 g | Cl | ClH
product | Benzhydryl 7-[2-(1-tert-butoxycarbonylethoxyimino)-2-(2-amino-5-chlorothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 1.69 g | C(C)(C)(C)OC(=O)C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1Cl)N | C34H34ClN5O7S2
